US08008350B2
vi) methyl (2R)-2-{[(4-methylphenyl)sulfonyl]oxy}propanoate
A solution of methyl (R)-(+)-lactate (6.66 g) in acetonitrile (33 ml) was cooled to 5° C. and triethylamine (9.8 ml) added followed by trimethylamine hydrochloride (0.62 g). A separate solution of p-toluenesulfonyl chloride (11.6 g) in acetonitrile (33 ml) was added dropwise over 20 min maintaining the temperature below 5° C. The reaction mixture was filtered and concentrated. Diethylether and water were added and the organic fraction dried (MgSO4) and concentrated in vacuo to give the sub-title compound as a yellow oil (13.71 g).

reactant | methyl (R)-(+)-lactate | 6.66 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | triethylamine | 9.8 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylamine hydrochloride | 0.62 g | Cl.CN(C)C
reactant | p-toluenesulfonyl chloride | 11.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 33 ml | C(C)#N | C2H3N
solvent | acetonitrile | 33 ml | C(C)#N | C2H3N
product | methyl (2R)-2-{[(4-methylphenyl)sulfonyl]oxy}propanoate | 13.71 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](C(=O)OC)C | C11H14O5S
